US07205291B2
A solution of sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(hydroxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (106 mg) in dry dimethylformamide (4.5 ml) was cooled with ice, and thereto pivaloyloxymethyl iodide (123 mg) was added. The mixture was stirred for 1 hour at the same temperature. Ethyl acetate and ice water were added to the reaction solution, and the mixture was separated with a separating funnel. After the organic layer was washed with a cold saturated aqueous sodium chloride solution (4 times), it was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and then the residue was purified by silica gel column chromatography (chloroform/methanol) to give [(2,2-dimethylpropanoyl)oxy]methyl(5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(hydroxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (36 mg).

reactant | sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(hydroxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 106 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])C1=C(C=CC=C1)O.[Na+]
reactant | pivaloyloxymethyl iodide | 123 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
product | [(2,2-dimethylpropanoyl)oxy]methyl(5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(hydroxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 36 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCOC(C(C)(C)C)=O)C1=C(C=CC=C1)O | C21H25NO7
